US06664265B2
1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine (1.00 g, 3.00 mmol) was dissolved in 30 mL of anhydrous CH2Cl2 and cooled to 0° C. under N2. To the stirred solution were added Et3N (0.84 mL, 6.00 mmol) and benzoyl chloride (348 μL, 3.00 mmol) and the reaction was allowed to warm to room temperature overnight. The reaction mixture was then quenched by addition of saturated NaHCO3 solution (30 mL). The organic layer was separated and washed with H2O and brine, dried over Na2SO4 and concentrated under reduced pressure to give a yellow oil. The oil was dissolved in a minimum amount of hot MeOH and then treated with Et2O (50 mL) which caused a white percipitate to form. The solid was isolated by filtration and dried under vacuum to give 476 mg of N-(2-{2-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)benzamide as a white powder. m.p. 141-143° C.; MS 438 (M+H)+; 1H NMR (300 MHz, DMSO-d6) δ8.36 (t, J=5.4 Hz, 1 H); 7.78-7.76 (m, 2 H); 7.54-7.42 (m, 3 H); 5.68 (s, 2 H); 4.43 (t, J=5.4 Hz, 2 H); 3.75-3.69 (m, 4 H); 3.48 (t, J=6.0 Hz, 2 H); 3.37 (t, J=5.5 Hz, 2 H); 3.24 (s, 3 H); 3.07 (t, J=6.9 Hz, 2 H); 2.91 (m, 2 H); 2.63 (m, 2 H); 1.70 (m, 4 H); 13C (75 MHz, DMSO-d6) δ166.7, 151.3, 149.3, 146.2, 138.5, 134.8, 131.4, 128.6, 127.5, 124.9, 105.6, 70.5, 70.5, 69.3, 58.4, 44.6, 32.7, 27.6, 23.8, 23.0, 23.0. Anal. Calcd for C24H31N5O3: %C, 65.88; %H, 7.14; %N, 16.01. Found: %C, 65.55; %H, 7.15; %N, 15.87.

reactant | 1-[2-(2-Aminoethoxy)ethyl]-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-4-amine | 3.00 mmol, 1.00 g | NCCOCCN1C(=NC=2C(=NC=3CCCCC3C21)N)CCOC | C17H27N5O2
reactant | Et3N | 6.00 mmol, 0.84 mL | CCN(CC)CC | C6H15N
reactant | benzoyl chloride | 3.00 mmol, 348 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Et2O | 50 mL | CCOCC | C4H10O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-(2-{2-[4-amino-2-(2-methoxyethyl)-6,7,8,9-tetrahydro-1H-imidazo[4,5-c]quinolin-1-yl]ethoxy}ethyl)benzamide | 476 mg | NC1=NC=2CCCCC2C2=C1N=C(N2CCOCCNC(C2=CC=CC=C2)=O)CCOC | C24H31N5O3
